US06423869B1
N-[(S)-3-[(2S,3R,4R,5S)-2,3,4,6-tetrahydroxy-5-(L-leucyl)aminohexanoyl]amino-3-phenylpropionyl]-L-alanine
To absolution of (S)-3-[(2S,3R,4R,5S)-5-(N-benzyloxycarbonyl-L-leucyl)amino-2,3,4,6-tetrahydroxyhexanoyl]amino-3-phenylpropionic acid (200 mg), L alanine benzyl ester p-toluenesulfonate (238 mg) and N-hydroxy-5-norbornene-2,3-dicarboxyimide (183 mg) in acetonitrile (10 ml) were added N,N′-dicyclohexylcarbodimide (140 mg) and triethylamine (0.094 ml) and the mixture was stirred at room temperature for 15 hours. The formed insoluble solid was filtrated off and the filtrate was concentrated under reduced pressure. The residue was dissolved in ethyl acetate and washed with saturated brine, followed by drying over anhydrous sodium sulfate. Removal of the organic solvent gave a residue, which was dissolved in methanol (10 ml) and stirred at room temperature with 10% palladium on activated carbon (60 mg) under hydrogen atmosphere for 3 hours. After filtration, the filtrate was concentrated under reduced pressure to give a residue, which was passed through a column of DIAION HP-20SS (Mitsubishi kasei corporation), followed by elution with water-acetonitrile. The effective fractions were combined and concentrated under reduced pressure. The residue was recrystallized from methanol-ethyl acetate to afford the title compound (58 mg).

reactant | (S)-3-[(2S,3R,4R,5S)-5-(N-benzyloxycarbonyl-L-leucyl)amino-2,3,4,6-tetrahydroxyhexanoyl]amino-3-phenylpropionic acid | 200 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(C)C)C(=O)N[C@H]([C@H]([C@H]([C@@H](C(=O)N[C@@H](CC(=O)O)C1=CC=CC=C1)O)O)O)CO | C29H39N3O10
reactant | alanine benzyl ester p-toluenesulfonate | 238 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(C1=CC=CC=C1)OC([C@@H](N)C)=O
reactant | N,N′-dicyclohexylcarbodimide | 140 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | triethylamine | 0.094 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium on activated carbon | 60 mg | [Pd] | Pd
product | N-[(S)-3-[(2S,3R,4R,5S)-2,3,4,6-tetrahydroxy-5-(L-leucyl)aminohexanoyl]amino-3-phenylpropionyl]-L-alanine | 58 mg | O[C@H](C(=O)N[C@@H](CC(=O)N[C@@H](C)C(=O)O)C1=CC=CC=C1)[C@@H]([C@@H]([C@H](CO)NC([C@@H](N)CC(C)C)=O)O)O | C24H38N4O9
